US06867210B2
4-[4-(4-Fluorophenoxy)phenyl]pyrimidine-2-carboxylic acid, (2-hydroxyethyl)amide
To a mixture of 4-[4-(4-fluorophenoxy)phenyl]pyrimidine-2-carboxylic acid (1.03 g, 3.1 mmol), ethanolamine (0.31 mL, 5.08 mmol), and 1-hydroxybenzotriazol hydrate (0.53 g, 3.46 mmol) in DMF (20 mL) under nitrogen at 0° C. was added 4-methylmorpholine (0.76 mL, 6.9 mmol), and 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride (0.68 g, 3.48 mmol). The mixture was allowed to warm to room temperature overnight. The reaction was diluted with ethyl acetate, washed 3 times with water, dried over sodium sulfate, filtered, and evaporated under reduced pressure to give the desired product as an oil. 1H NMR (CDCl3): δ 8.82 (d, J=5.7 Hz, 1H), 8.50 (bs, 1H), 8.10 (d, J=8.7 Hz, 2H), 7.71 (d, J=5.1 Hz, 1H), 7.08-7.03 (m, 6H), 3.88 (t, J=4.2 Hz, 2H), 3.70 (q, J=4.8 Hz, 2H), 3.25 (bs, 1H).

reactant | 4-[4-(4-fluorophenoxy)phenyl]pyrimidine-2-carboxylic acid | 3.1 mmol, 1.03 g | FC1=CC=C(OC2=CC=C(C=C2)C2=NC(=NC=C2)C(=O)O)C=C1 | C17H11FN2O3
reactant | ethanolamine | 5.08 mmol, 0.31 mL | C(O)CN | C2H7NO
reactant | 1-hydroxybenzotriazol hydrate | 3.46 mmol, 0.53 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-methylmorpholine | 6.9 mmol, 0.76 mL | CN1CCOCC1 | C5H11NO
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride | 3.48 mmol, 0.68 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4-Fluorophenoxy)phenyl]pyrimidine-2-carboxylic acid, (2-hydroxyethyl)amide | OCCNC(=O)C1=NC=CC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C19H16FN3O3
